US05578607
5,8-dimethylquinoline (1.25 g), in a 250 mL round bottom flask is cooled to O° C. in an ice-NaCl bath under argon. Concentrated sulfuric acid (50 mL) is added slowly via addition funnel so that the internal temperature does not exceed 5° C. The solution is allowed to stir a few minutes then cooled to -15° C. in an ethylene glycol-dry ice bath. Nitric acid (1.7 mL, 69-71%) in sulfuric acid (50 mL) is added dropwise (via syringe) at such a rate that the reaction temperature does not exceed -3° C. After 10 minutes, the reaction is poured into a beaker of ice and basified slowly to pH 10 by the addition of ammonium hydroxide solution (28-30%). The product is extracted with ethyl acetate (3×500 mL). The organic layer is dried over MgSO4, filtered, and rotary evaporated to yield crude product (2.6 g) which is flash chromatographed on silica gel eluting with 15% ethyl acetate/hexane. Compound-containing fractions are combined and rotary evaporated to yield 5,8-dimethyl-6-nitroquinoline.

reactant | 5,8-dimethylquinoline | 1.25 g | CC1=C2C=CC=NC2=C(C=C1)C | C11H11N
reactant | Nitric acid | 1.7 mL | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | 5,8-dimethyl-6-nitroquinoline | CC1=C2C=CC=NC2=C(C=C1[N+](=O)[O-])C | C11H10N2O2
